US04873236
5,11-Dihydro-11-[[[2-[4-[2-(piperidin-1-yl)ethyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[4-[2-(piperidin-1-yl)ethyl]-piperidin-1-yl]ethanamine in a yield of 50% of theory. Colourless crystals, m.p. 223° C. (D.) (acetonitrile).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[4-[2-(piperidin-1-yl)ethyl]-piperidin-1-yl]ethanamine | N1(CCCCC1)CCC1CCN(CC1)CCN | C14H29N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,11-Dihydro-11-[[[2-[4-[2-(piperidin-1-yl)ethyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one hydrochloride | yield of 50% | Cl.N1(CCCCC1)CCC1CCN(CC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C27H36N6O2.ClH/c34-26-22-7-2-3-9-24(22)33(25-23(30-26)8-6-13-28-25)27(35)29-14-20-32-18-11-21(12-19-32)10-17-31-15-4-1-5-16-31;/h2-3,6-9,13,21H,1,4-5,10-12,14-20H2,(H,29,35)(H,30,34);1H
